US08309581B2
{4-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-phenyl}-acetic acid methyl ester
The title compound was prepared in analogy to Example 5, intermediate a, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) and (4-bromomethyl-phenyl)-acetic acid methyl ester (7398-42-7). Brown solid (45%). MS (Turbo Spray): m/z=539.3 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | (4-bromomethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)CBr)=O | C10H11BrO2
product | {4-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)COC1=C(C=CC(=C1)Cl)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)=O | C30H29ClF2N2O3
